US04235885
(A) 8-[[2-(Chloromethyl)-4-methyl-1-oxopentyl]amino]octanoic acid
8-Amino caprylic acid (4.3 g) is dissolved in 20 ml of water containing 1.1 g of sodium hydroxide. To this is added 20 ml of THF, and 5 ml of toluene, and the solution is cooled to 5° C. 2-(Chloromethyl)-4-methylvaleryl chloride is dissolved in 10 ml of THF and added dropwise to the above solution. The pH of the reaction mixture is maintained between 8 and 9 during the reaction time by the addition of a total of 1.1 g of sodium hydroxide in 20 ml of water, as needed. After stirring at room temperature for about 16 hours, the aqueous layer is separated and acidified with 10% hydrochloric acid. Product is extracted with ethyl acetate and the ethyl acetate is dried with magnesium sulfate, filtered and concentrated in vacuo to yield 5.6 g of product.

reactant | 8-Amino caprylic acid | 4.3 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(Chloromethyl)-4-methylvaleryl chloride | ClCC(C(=O)Cl)CC(C)C | C7H12Cl2O
solvent | water | 20 ml, 1.1 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | sodium hydroxide | 1.1 g | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-[[2-(Chloromethyl)-4-methyl-1-oxopentyl]amino]octanoic acid | 5.6 g | ClCC(C(=O)NCCCCCCCC(=O)O)CC(C)C | C15H28ClNO3
